US05639778
Di-n-propyl-(6,7,8,9-tetrahydro-1H-benzo[g]indol-7yl)amine (3a, Chart 1) (R1R2 n-propyl; R3 hydrogen; R4CH2 ; YZ (a); R5R6H)
A solution of 7-di-n-propylamino-6,7,8,9-tetrahydro-1H-benzo[g]indole-2,3-dione, 2a, (Chart 1) (22.0 g, 73.2 mmol) in dry diethyl ether (100 mL) was added dropwise to a suspension of lithiumaluminum hydride (9.0 g, 237 mmol) in dry diethyl ether (600 mL). After stirring overnight at ambient temperature, water (9.0 mL), 15% sodium hydroxide (9 mL) and water (27 mL) were consecutively added. The mixture was stirred for 20 minutes followed by filtration of inorganic material. The solution was dried (sodium sulfate), filtered and evaporated to yield 17 g of a blue off, which was purified on silica (acetone/methanol, 20:1) to yield 7.4 g (37%) of the pure material. For analytical and biological purposes, the fumarate salt (1/2 fum) was prepared which was recrystallized from ethanol/diethyl ether. m.p. 201°-205° C.

reactant | 7-di-n-propylamino-6,7,8,9-tetrahydro-1H-benzo[g]indole-2,3-dione | C(CC)N(C1CCC=2C(=CC=C3C(C(NC23)=O)=O)C1)CCC | C18H24N2O2
reactant | lithiumaluminum hydride | 237 mmol, 9.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 9.0 mL | O | H2O
reactant | sodium hydroxide | 9 mL | [OH-].[Na+]
reactant | water | 27 mL | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 600 mL | C(C)OCC | C4H10O
product | Di-n-propyl-(6,7,8,9-tetrahydro-1H-benzo[g]indol-7yl)amine | 7.4 g, 37% | C(CC)N(C1CCC=2C(=CC=C3C=CNC23)C1)CCC | C18H26N2
